2168-04-15 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - A lines and RIJ placed
   - s/p R lung diagnostic thoracentesis
   - EEG and CT torso ordered
   - patient's antibiotics changed to Vanc/cefepime/amikacin/micafungin
   - PICC line pulled and sent for culture
   - resumed on heparin gtt
   - plan for trial on pressure support in AM -  but got very tachypneic,
   no [**Last Name (LF) 2212**], [**First Name3 (LF) **] placed back on AC
   *** Blood cultures from 4.12 with YEAST 1 of 4 bottle
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Amikacin - [**2168-4-14**] 09:10 PM
   Cefipime - [**2168-4-14**] 09:32 PM
   Micafungin - [**2168-4-14**] 09:39 PM
   Metronidazole - [**2168-4-15**] 12:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Propofol - [**2168-4-14**] 02:00 PM
   Pantoprazole (Protonix) - [**2168-4-14**] 09:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-15**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (99
   HR: 79 (60 - 80) bpm
   BP: 127/53(75) {96/43(58) - 156/67(94)} mmHg
   RR: 27 (6 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 16 (14 - 18)mmHg
   Total In:
                                                                  1,772 mL
                                                                  1,291 mL
   PO:
   TF:
   IVF:
                                                                    676 mL
                                                                    727 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                    250 mL
   Balance:
                                                                  1,522 mL
                                                                  1,291 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 427 (368 - 427) mL
   PS : 18 cmH2O
   RR (Set): 14
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 167
   PIP: 23 cmH2O
   Plateau: 0 cmH2O
   Compliance: -100 cmH2O/mL
   SpO2: 100%
   ABG: 7.53/28/188/22/2
   Ve: 10.6 L/min
   PaO2 / FiO2: 470
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   277 K/uL
   7.1 g/dL
   91 mg/dL
   2.7 mg/dL
   22 mEq/L
   3.6 mEq/L
   50 mg/dL
   107 mEq/L
   143 mEq/L
   24.7 %
   26.9 K/uL
        [image002.jpg]
                             [**2168-4-14**]  09:30 AM
                             [**2168-4-14**]  12:24 PM
                             [**2168-4-14**]  02:50 PM
                             [**2168-4-15**]  04:24 AM
                             [**2168-4-15**]  04:54 AM
   WBC
   23.4
   25.1
   26.9
   Hct
   26.2
   26.7
   24.7
   Plt
   [**Telephone/Fax (3) 11952**]
   Cr
   2.1
   2.0
   2.7
   TropT
   0.23
   0.21
   TCO2
   29
   24
   Glucose
   206
   130
   91
   Other labs: PT / PTT / INR:22.4/53.2/2.1, CK / CKMB /
   Troponin-T:34//0.21, ALT / AST:17/52, Alk Phos / T Bili:215/9.7,
   Differential-Neuts:52.0 %, Band:21.0 %, Lymph:13.0 %, Mono:6.0 %,
   Eos:1.0 %, Lactic Acid:1.9 mmol/L, LDH:262 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Pleural fluid chemistries
   pH 7.56, prot 1.4, LDH 99, Tbil 3.4, Gluc 128; serum LDH 262, Prot 5.3
   WBC 38 (N8, L20, Mes 11, Macro 61)
   4.12 Blood cx with YEAST (not yet speciated) 1 of  6***, repeat blood
   cx from [**Date range (1) 11954**] are NGTD; [**Date range (1) 11955**] blood cx negative
   4.16 catheter tip cx pending
   4.15
   Pleural fluid gram statin 1+ polys no organisms, cx pending
   Assessment and Plan
   This 48 year old woman with ESRD on HD, HBV, recent prolongued
   hospitalization for PEG c/b abdominal abscess requiring debridement
   along with gram negative bacteremia and candidemia returned from her
   rehab facility with lethargy and worsening leukocytosis in setting of
   recently diagnosed C difficile colitis. She is transferred back to the
   MICU with altered mental status.
   .
   * Candidemia
   Likely line related in the setting of TPN. Positive blood culture
   correlates with being off micafungin on the floor, repeat cultures are
   negative. Her PICC is now out, though her original HD catheter is still
   in place. Patient had prior C. glabrata line infection treated with
   fluconazole. If seeded bone/heart etc. or abscess formation longer
   course would have been required.
   - Continue micafungin for now pending speciation and sensitivities
   - Remove HD catheter, send tip for culture
   - Follow up pending cultures and repeat glucan
   - Will need eye exam
   - CT torso for look again for abscess
   - ID recs appreciated
   * Altered mental status
   Now s/p intubation for airway protection. The acute onset of this event
   and rapid improvement is worrisome for a seizure. With her prior CVA
   and meropenem treatment with active infection would be concerned for
   seizure. Would also consider sedating med effect eg dilaudid, though
   she was reportedly feeling well several hours after receiving a low
   dose of PO dilaudid. In setting of anticoagulation, consider also head
   bleed though would not expect her mental status to improve quickly
   without intervention. No obvious focal deficits, though neuro exam
   limited.
   - Hold all sedating meds
   - Will defer on narcan for now as mental status improved
   - CT head, holding heparin pending this study
   - Minimize sedation and follow neurologic exam closely
   - Consider EEG
   .
   * Leukocytosis
   Persistly elevated WBC in setting of recent rehab diagnosis of C diff,
   abdominal wound, multiple venous thromboses, lines and recent TPN. She
   continues to have fevers despite very broad spectrum treatment
   including meropenem, vancomycin PO and IV, micafungin. Her blood
   cultures have not grown any organisms and her ascites did not show
   evidence of infection on presentation. However her glucan was very high
   at presentation however, though we do not have a level from her prior
   admission. C diff assay here, in setting of treatment, was negative.
   Would consider: occult intrabdominal abscess, though not commented on
   admission CT abdomen; septic thrombophlebitis; empyema (R effusion
   loculated on CXR); line infection; endocarditis due to fastidious
   organism; severe C difficile infection. An untreated fungal infection
   whether due to anatomic barrier eg abscess or resistant mold needs to
   be considered with her high glucan.
   Of noninfectious causes, which I think are much less likely explanatory
   for her fevers and leukocytosis consider drug fever, vasculitis (eg PAN
   given hepB), clots.
   - Will continue current IV meropenem, IV vancomycin, PO vancomycin, IV
   metronidazole for now. Vanc level therapeutic today. If hemodynamically
   unstable consider amphotericin. If C diff diagnosis confirmed would
   treat with PO vanco at least 10d beyond end of systemic abx
   - Favor repeating CT abdomen with IV and PO contrast to assess for
   abscess
   - Would consider tapping R pleural effusion. Reasonable to consider
   repeat paracentesis again.
   - Would pull her R picc which has been in place for some time. Send tip
   for culture.
   - Repeating beta glucan today to assess response to micafungin
   - Follow up pending micro and culture if febrile
   - Confirm OSH C diff diagnosis
   .
   * Hypoxia
   Suspect this is due to volume overload primarily. Given her other clots
   would consider PE, though I think this is less likely as she has been
   on systemic anticoagulation. Could have aspirated in setting of altered
   mental status
   - Would favor additional volume removal at HD
   - Consider repeating TTE with bubble study
   - Repeat ABG
   - Likely able to extubate today as she is more awake
   .
   * Abdominal wound
   - surgery following, recs appreciated
   - continue local care, wound vac
   .
   * Portal venous and RIJ clots
   - Holding heparin pending head CT
   - Holding warfarin for now given anticipated procedures
   .
   * HepB, autoimmune cholangiopathy
   S/p recent prednisone taper.
   - Continue entecavir and tenofovir
   - Continue ursodiol
   - Continue to follow synthetic function tests
   - Liver recs appreciated
   .
   * ESRD on HD
   - Renal recs appreciated
   - Follow lytes daily
   .
   * DM
   - Continue insulin
   .
   * HTN
   BP near her recent baseline. Note that thigh pressures likely
   underestimate her BP.
   - Hold on further IVF at this time
   - Holding lisinopril
   .
   * Anemia
   - Hct stable, continue to follow daily.
   - Maintain active T+S and transfuse for hct>25
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2168-4-14**] 08:03 PM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2168-4-14**] 10:21 AM
   Dialysis Catheter - [**2168-4-14**] 11:00 AM
   Arterial Line - [**2168-4-14**] 02:30 PM
   Multi Lumen - [**2168-4-14**] 05:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2168-04-15 11:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   48 yo F ESRD, ESLD recent abdominal wound infection with [**Female First Name (un) 444**]
   infection, cdif hwo is transferred from the floor with altered mental
   status
   24 Hour Events:
   Trialed on PSV but became tachypneic
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Amikacin - [**2168-4-14**] 09:10 PM
   Cefipime - [**2168-4-14**] 09:32 PM
   Micafungin - [**2168-4-14**] 09:39 PM
   Metronidazole - [**2168-4-15**] 08:18 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Propofol - [**2168-4-14**] 02:00 PM
   Pantoprazole (Protonix) - [**2168-4-14**] 09:14 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-15**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.3
C (101
   HR: 74 (60 - 80) bpm
   BP: 144/67(90) {96/43(58) - 156/67(94)} mmHg
   RR: 25 (9 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 18 (14 - 18)mmHg
   Total In:
                                                                  1,772 mL
                                                                  1,951 mL
   PO:
   TF:
   IVF:
                                                                    676 mL
                                                                    903 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                    250 mL
   Balance:
                                                                  1,522 mL
                                                                  1,951 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 427 (368 - 427) mL
   PS : 18 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 167
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 98%
   ABG: 7.53/28/188/22/2
   Ve: 9.3 L/min
   PaO2 / FiO2: 470
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Cool
   Neurologic: Follows simple commands, Responds to: Tactile stimuli,
   Oriented (to): , Movement: Non -purposeful, Tone: Decreased
   Labs / Radiology
   7.1 g/dL
   277 K/uL
   91 mg/dL
   2.7 mg/dL
   22 mEq/L
   3.6 mEq/L
   50 mg/dL
   107 mEq/L
   143 mEq/L
   24.7 %
   26.9 K/uL
        [image002.jpg]
                             [**2168-4-14**]  09:30 AM
                             [**2168-4-14**]  12:24 PM
                             [**2168-4-14**]  02:50 PM
                             [**2168-4-15**]  04:24 AM
                             [**2168-4-15**]  04:54 AM
   WBC
   23.4
   25.1
   26.9
   Hct
   26.2
   26.7
   24.7
   Plt
   [**Telephone/Fax (3) 11952**]
   Cr
   2.1
   2.0
   2.7
   TropT
   0.23
   0.21
   TCO2
   29
   24
   Glucose
   206
   130
   91
   Other labs: PT / PTT / INR:22.4/146.6/2.1, CK / CKMB /
   Troponin-T:34//0.21, ALT / AST:17/52, Alk Phos / T Bili:215/9.7,
   Differential-Neuts:52.0 %, Band:21.0 %, Lymph:13.0 %, Mono:6.0 %,
   Eos:1.0 %, Lactic Acid:1.9 mmol/L, LDH:262 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   1. leukocytosis/fever  - now with + [**Female First Name (un) 444**] blood culture
    - + blood culture
    - picc discontinued, will d/c hd line, likely line holiday (hold
   heparin for 6hrs)
    - cont vanc/cefepime/flagyl, cont micafungin for now until sensis
   returns, cont amikacin for now until cx negative x 48 hours after code
    - would get TEE to r/o endocarditis
    - C/A/P CT
    - optho exam
   2. Cdif: cont po vanc and flagyl; will likely require prolonged course
   3. Altered mental status: unclear etiology, sepsis??? r/o szr activity
   with an EEG, cont monitor neuro status
   4. Respiratory failure: likely [**2-2**] mental status and pulmonary edema
    - will attempt to transition to PSV and wean vent
   5. HoTN:
    - propofol and volume shifts in setting of large volume paracentesis
    - cont IVF resuscitation and levophed
    - would consider albumin if remains refractory
    - will check random cortisol given recent prednisone use
   6. A/C:
    - heparin for portal vein thrombosis
    - will hold 6 hours prior to d/c HD line
   7. Autoimmune cholangiopathy: completed  steroid taper
   8. DM2: RISS
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2168-4-15**] 06:42 AM 75 mL/hour
   Comments: will restart tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2168-4-14**] 10:21 AM
   Dialysis Catheter - [**2168-4-14**] 11:00 AM
   Arterial Line - [**2168-4-14**] 02:30 PM
   Multi Lumen - [**2168-4-14**] 05:17 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments: need for restraints while intubated
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2168-04-16 06:37:00 Physician Resident Progress Note
Chief Complaint: 48yo female with recent sepsis, C.diff & multiple
   abdominal infections who p/w altered mental status
   24 Hour Events:
   - retapped by IR, took of ~2L (despite order for dx tap only), negative
   for SBP
   - no signifcant change on CT torso prelim
   - blood cx from 4.12 with yeast, 4.15 also positive
   - pulled HD line, sent tip for culture
   - started tube feeds
   - will need new IJ line (placed 4.15)
   - EEG with background slowing and disorganization c/w encephalopathy,
   no evidence of seizure activity
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Amikacin - [**2168-4-14**] 09:10 PM
   Micafungin - [**2168-4-15**] 08:00 PM
   Cefipime - [**2168-4-15**] 11:45 PM
   Metronidazole - [**2168-4-16**] 01:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2168-4-15**] 06:40 PM
   Pantoprazole (Protonix) - [**2168-4-15**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-16**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 35.4
C (95.7
   HR: 63 (62 - 80) bpm
   BP: 102/49(68) {88/45(60) - 148/67(91)} mmHg
   RR: 25 (21 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 8 (5 - 19)mmHg
   Mixed Venous O2% Sat: 73 - 73
   Total In:
                                                                  4,397 mL
                                                                    746 mL
   PO:
   TF:
                                                                     11 mL
                                                                     99 mL
   IVF:
                                                                  1,459 mL
                                                                    143 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,397 mL
                                                                    746 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.46/32/173/20/0
   Ve: 11.7 L/min
   PaO2 / FiO2: 433
   Physical Examination
   General Chronically ill appearing
   HEENT Anicteric, PEARL
   Neck +JVD
   Pulm Lungs clear to auscultation on anterior exam
   CV Regular S1 S2 soft systolic murmur at base
   Abd Distended but soft. Wound vac in place.. Nontender, no mass.
   Extrem Warm with 1+ pitting edema bilaterally, palpable pulses
   Neuro opens eye to voice and squeezes hands to command.
   Derm no jaundice or rash, no peripheral stigmata of endocarditis
   R picc removed, R HD catheter in place no erythema or exudate, LIJ in
   place, L A line
   Labs / Radiology
   290 K/uL
   6.8 g/dL
   63 mg/dL
   2.8 mg/dL
   20 mEq/L
   3.3 mEq/L
   61 mg/dL
   107 mEq/L
   141 mEq/L
   23.0 %
   22.2 K/uL
                             [**2168-4-14**]  09:30 AM
                             [**2168-4-14**]  12:24 PM
                             [**2168-4-14**]  02:50 PM
                             [**2168-4-15**]  04:24 AM
                             [**2168-4-15**]  04:54 AM
                             [**2168-4-15**]  03:10 PM
                             [**2168-4-16**]  02:46 AM
                             [**2168-4-16**]  03:08 AM
   WBC
   23.4
   25.1
   26.9
   22.2
   Hct
   26.2
   26.7
   24.7
   23.0
   Plt
   [**Telephone/Fax (3) 11972**]90
   Cr
   2.1
   2.0
   2.7
   2.8
   TropT
   0.23
   0.21
   TCO2
   29
   24
   23
   23
   Glucose
   [**Telephone/Fax (2) 11973**]
   Other labs: PT / PTT / INR:22.2/51.5/2.1, CK / CKMB /
   Troponin-T:34//0.21, ALT / AST:7/36, Alk Phos / T Bili:172/8.7,
   Differential-Neuts:52.0 %, Band:21.0 %, Lymph:13.0 %, Mono:6.0 %,
   Eos:1.0 %, Lactic Acid:1.6 mmol/L, LDH:262 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   4.16-4.17 blood cx NGTD
   4.15 Blood cx with YEAST 1 of 4
   4.12 Blood cx with YEAST (not yet speciated) 1 of  6***
   4.17 HD cath tip cx pending
   4.16 PICC  tip cx pending
   4.15 pleural fluid cx pending
   4.17 ascites cx pending
   4.16 c diff negative
   CXR ET tube ~5cm, clear lung fields
   4.16 CT torso prelim
   1. moderate to large ascites in abdomen and pelvis.
   2. diffuse bowel wall thickening of small and large bowel. could be due
   to 3rd
   spacing, hypoalbumen.; given history of c difficile, large bowel wall
   thickening also likely represents colitis.
   3. periportal edema with heterogeneous enhancement of liver, unchanged.
   4. cholelithiasis.
   5. splenic infarcts.
   6. continued hypoenhancement of kidneys, unchanged, again concerning
   for
   cortical necrosis.
   7. diffuse anasarca, worsened.
   8. small left fluid collection, concerning for abscess, again seen in
   medial
   left thigh, only very superior aspect imaged.
   Assessment and Plan
   48 yo F with ESRD on HD, HBV, recent prolonged hospitalization for PEG
   c/b abdominal abscess requiring debridement along with gram negative
   bacteremia and candidemia returned from her rehab facility with
   lethargy and worsening leukocytosis in setting of recently diagnosed
   C.difficile colitis. She is transferred back to the MICU with altered
   mental status and found to have candidemia.
   .
   # Candidemia / Sepsis
   Likely line related in the setting of TPN. Positive blood cultures ( on
   [**5-15**] and [**4-14**])  correlate with being off micafungin on the floor,
   repeat cultures are negative. Her PICC  & HD now pulled out and new IJ
   placed [**4-14**]. Patient had prior C. glabrata line infection treated with
   fluconazole x23d. If seeded bone/heart/venous clots or abscess
   formation 3 week course would have likely been inadequate. Left thigh
   fluid collection previously drained c/w hematoma and all cultures from
   thigh NGTD. . Still fevers overnight to 101F range. Weaned pressors
   overnight but now back  on due to overnight SBPs dropping to 70s.  WBC
   slightly down from 26 to 22 range. Ascites drainage negative for SBP
   and no fungus growing to date.
   .
   - Continue micafungin for now pending speciation and sensitivities.
   - daily cultures for now
   - stop TPN for now
   - holding off on Ambisome for now
   - may need to have left IJ removed  that was placed [**4-14**] given positive
   cultures on that date
   - consider femoral line placement this afternoon vs. new HD line ( will
   d/w renal)
   - will likely need new A-line as well
   - will need eye exam / ophthalmology consult today
   - [**Last Name (LF) 1163**], [**First Name3 (LF) 116**] be done next week once more stable
   - f/u final CT torso final read
   - f/u repeat glucan / galactomannan
   - daily blood cultures, f/u pending micro from ascites & pleural tap as
   well
   - f/up ID recs, appreciate input
   # Leukocytosis and fever: Most likely disseminated fungal infection,
   though she came with report of C diff infection at her rehab. Please
   see admit note for detailed ddx discussion. Thoracentesis yesterday
   showed no evidence of empyema.  WBC slight drop to 22 today, fevers
   continued to 101F overnight. Still septic physiology requiring pressors
   intermittently. HD line has been removed, PICC removed.  Now has left
   IJs in place still.
   - trending fevers, WBC slowly coming down
   - Fungemia w/u and treatment as above
   - Continuing on cefepime, amikacin (to cover for resistant
   pseudomonas), IV vanco and PO vanco given recent C.diff
   - f/up pending culture data, daily cultures
   - f/up final  CT torso read
   - [**First Name3 (LF) 1163**] to r/o vegetations
   - formal eye exam/ophthalmology consult as above
   - CIS
   - Confirm OSH C. diff diagnosis
   .
   # Altered mental status
   Now s/p intubation for airway protection. The acute onset of this event
   and rapid improvement is worrisome for a seizure. With her prior CVA
   and meropenem treatment with active infection would be concerned for
   seizure. Would also consider sedating med effect eg: dilaudid, though
   she was reportedly feeling well several hours after receiving a low
   dose of PO dilaudid. No evidence of bleed on head CT. EEG with no
   active seizures.
   - wean  sedation as tolerates
   -  treating infections as above
   - Consider neuro c/s
   #Hypoxia: Intubated mainly for airway protection vs. overt resp
   failure.   Oxygenating better today, but tachypneic on PSV, suspect
   this is fluid related or related to altered mental status.  Now had 2L
   taken off abd yesterday and pleural effusions better.
   -favor additional volume removal, may need CVVH. Less likely PE or
   aspiration. On AC ventilation
   - Would pursue additional volume removal as BP tolerates, may need CVVH
   - Continue on AC until done with procedures, then can trial on PS
   # Hypotension:  Suspect [**2-2**] sepsis. Less likely cardiogenic. Her
   propofol may be contributory. She appears intravascularly volume
   overloaded. Normal cortisol levels this morning. CVP 12 now.
   - Wean pressors as tolerated, on Levophed intermittently
   - Treating infection as above
   - Trend lactate
   .
   # Abdominal wound: Wound vac changed yesterday. ABD CT unchanged.
   - surgery following, recs appreciated
   - continue local care, wound vac
   .
   # Portal venous and RIJ clots
   - Holding heparin in anticipation of new line
   .
   # HepB, autoimmune cholangiopathy:  S/p recent prednisone taper.
   - no steroids for now given sepsis and candidemia issues
   - Continue entecavir and tenofovir
   - Continue ursodiol
   - Continue to follow synthetic function tests
   - Liver recs appreciated
   .
   # ESRD on HD
   Removed HD line as above, sending for culture. Per renal no urgent need
   for HD today. Given pressor requirement, may need CVVH. Also d/w renal
   new line options/discussion.
   - Renal recs appreciated
   - Follow lytes daily
   .
   # DM:
   - Continue insulin
   - will d/c glargine for now and start on Humalog SSI
   .
   # Anemia
   - Hct stable, continue to follow daily.
   - Maintain active T+S and transfuse for hct>21
   ICU Care
   Nutrition:
   TPN without Lipids - [**2168-4-15**] 05:46 PM 58.[**Telephone/Fax (5) 4167**] mL/hour
   Peptamen 1.5 (Full) - [**2168-4-15**] 11:15 PM 15 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2168-4-14**] 10:21 AM
   Arterial Line - [**2168-4-14**] 02:30 PM
   Multi Lumen - [**2168-4-14**] 05:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2168-04-16 09:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EEG - At [**2168-4-15**] 09:45 AM
 PARACENTESIS - At [**2168-4-15**] 11:20 AM
 DIALYSIS CATHETER - STOP [**2168-4-15**] 06:30 PM
 BLOOD CULTURED - At [**2168-4-16**] 03:00 AM
 FEVER - 101.5
F - [**2168-4-15**] 08:00 AM
   IR paracentesis yesterday, negative for SBP.  Abd CT done yesterday.
   HD line removed yesterday.  Tube feeds started.  EEG performed x 20
   minutes.
   C/o abdominal pain overnight.  Levophed restarted this AM for MAPs in
   50s.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Amikacin - [**2168-4-14**] 09:10 PM
   Micafungin - [**2168-4-15**] 08:00 PM
   Cefipime - [**2168-4-15**] 11:45 PM
   Vancomycin - [**2168-4-16**] 12:30 AM
   Metronidazole - [**2168-4-16**] 01:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2168-4-15**] 06:40 PM
   Pantoprazole (Protonix) - [**2168-4-15**] 08:30 PM
   Other medications:
   ursodiol, Heparin IV (off), pancrease, RISS, vanco po, levophed,
   propofol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-16**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 38.3
C (101
   Tcurrent: 35.3
C (95.6
   HR: 63 (62 - 79) bpm
   BP: 90/44(61) {88/44(60) - 148/67(91)} mmHg
   RR: 23 (19 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 12 (5 - 19)mmHg
   Mixed Venous O2% Sat: 73 - 73
   Total In:
                                                                  4,397 mL
                                                                    982 mL
   PO:
   TF:
                                                                     11 mL
                                                                    176 mL
   IVF:
                                                                  1,459 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,397 mL
                                                                    982 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/32/173/20/0
   Ve: 10.5 L/min
   PaO2 / FiO2: 433
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Vac dressing in
   place
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   6.8 g/dL
   290 K/uL
   63 mg/dL
   2.8 mg/dL
   20 mEq/L
   3.3 mEq/L
   61 mg/dL
   107 mEq/L
   141 mEq/L
   23.0 %
   22.2 K/uL
        [image002.jpg]
                             [**2168-4-14**]  09:30 AM
                             [**2168-4-14**]  12:24 PM
                             [**2168-4-14**]  02:50 PM
                             [**2168-4-15**]  04:24 AM
                             [**2168-4-15**]  04:54 AM
                             [**2168-4-15**]  03:10 PM
                             [**2168-4-16**]  02:46 AM
                             [**2168-4-16**]  03:08 AM
   WBC
   23.4
   25.1
   26.9
   22.2
   Hct
   26.2
   26.7
   24.7
   23.0
   Plt
   [**Telephone/Fax (3) 11972**]90
   Cr
   2.1
   2.0
   2.7
   2.8
   TropT
   0.23
   0.21
   TCO2
   29
   24
   23
   23
   Glucose
   [**Telephone/Fax (2) 11973**]
   Other labs: PT / PTT / INR:22.2/51.5/2.1, CK / CKMB /
   Troponin-T:34//0.21, ALT / AST:7/36, Alk Phos / T Bili:172/8.7,
   Differential-Neuts:52.0 %, Band:21.0 %, Lymph:13.0 %, Mono:6.0 %,
   Eos:1.0 %, Lactic Acid:1.6 mmol/L, LDH:262 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: Vancomycin 13.4
   Ascites:  WBC 98
   Imaging: CXR: ETT in place, L IJ in place.  Well aerated with no clear
   volume overload or infiltrates
   Abd/Chest CT:  Ascites, diffuse bowel wall thickening (fluid vs
   colitis).  Improvement ineffusion and bibasilar atelectasis.
   Microbiology: C diff: neg
   BCx:  + for yeast [**4-11**], [**4-13**], [**4-14**].
   BCx:  [**4-15**]: NGTD
   Ascites:  NGTD
   Pleural Cx:  NGTD
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   48 yo with ESRD and HBV cirrhosis with prolonged course after recent
   complicated abd wound and polymicrobial bacteremia.  Now with fungemia.
   1.) Sepsis:  Likely source fungemia.  Lines changed but now cx's from
   [**4-14**] are positive which is the day L IJ and a-line were placed.  Also
   concern that fungus may be colonizing intravascular clots.
   -Continue micafungin for now until sensi's on fungus known.
   -Change IJ line to new site.  Resite A-line.
   -If cultures from yesterday are negative at 48 hours, will likely scale
   back antibacterials
   -[**Month/Year (2) 1163**] to be done next week
   -Daily surveillance cultures
   -Optho c/s
   -Currently on a small amount of pressors.  CVP reasonable.  Will
   continue pressors and wean as able.  Will be sparing with volume given
   ESRD and preference for a line holiday for as long as possible.
   2.) Respiratory Failure:  Oxygenating well.  Currently overventilating
   on A/C.  Some tachypnea earlier in the week on PSV.
   -PSV trial today now that ascites and effusion are improved with taps.
   3.) Cdif: cont po vanc and flagyl; will likely require prolonged course
   4.) Altered mental status: Cleared quickly here.  Head CT
   unremarkable.  EEG with diffuse slowing.  Likely toxic metabolic.
    -Avoid offending meds as able.
    -Daily awakening.
    5.)  Renal:  Currently on HD holiday.  Will monitor lytes, acid/base,
   volume daily to assess need for RRT
    6.) A/C:
   - heparin for portal vein thrombosis.  Currently on hold for impending
   line changes.  Will restart after.
   7). Autoimmune cholangiopathy: completed  steroid taper
   8.)  FEN:  Will stop TPN given multiple +fungal cultures.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2168-4-15**] 05:46 PM 58.[**Telephone/Fax (5) 4167**] mL/hour
   Peptamen 1.5 (Full) - [**2168-4-15**] 11:15 PM 25 mL/hour
   Glycemic Control:  Insulin in TPN, Comments: Will transition to sliding
   scale as TPN comes off.
   Lines:
   20 Gauge - [**2168-4-14**] 10:21 AM
   Arterial Line - [**2168-4-14**] 02:30 PM
   Multi Lumen - [**2168-4-14**] 05:17 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 40 minutes
   Patient is critically ill

2168-04-17 06:57:00 Physician Resident Progress Note
Chief Complaint:
   48yo female with recent sepsis, C.diff & multiple abdominal infections
   who p/w altered mental status and now has candidemia with BPs pressor
   dependent
   .
   24 Hour Events:
   -no new plastic [**Doctor First Name **] recs today, wound vac changed Friday
   - rechecking Vanco level in a.m. and dosing to level ( not getting it
   at HD now)
   - ID recs : started Ambisome @ 3mg/kg daily in addition to micafungin &
   mycolytic / dimorophic fungi cultures sent off --> she has h/o prior
   yeast that is not [**Female First Name (un) 444**] albicans but alternative yeast species
   - called ophtho consult --needs more extensive cataract w/up as
   outpatient but no e/o fungal eye infections now
   - stopped TPN for now, still on tubefeeds
   - plastic [**Doctor First Name **] changed wound vac on [**4-15**]
   - renal will hold off on dialysis until monday
   - placed new right femoral CVL  and new R A-line (HD line / old A-line
   gone)
   - placed new right side A-line and d/c old line
   - goal for PS in morning & maybe plan for SBT ;  but limited gag reflex
   which may make it challenging
   - still consider possible re-ultrasound/IR drainage of thigh collection
   to make sure not a seeded area
   - restarted her heparin drip last night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Amikacin - [**2168-4-14**] 09:10 PM
   Micafungin - [**2168-4-15**] 08:00 PM
   Vancomycin - [**2168-4-16**] 12:00 PM
   Cefipime - [**2168-4-16**] 09:05 PM
   Metronidazole - [**2168-4-17**] 12:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Heparin Sodium - 750 units/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2168-4-16**] 11:30 AM
   Pantoprazole (Protonix) - [**2168-4-16**] 09:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-17**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 68 (61 - 73) bpm
   BP: 112/49(70) {78/39(53) - 177/78(107)} mmHg
   RR: 27 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 16 (12 - 16)mmHg
   Total In:
                                                                  3,347 mL
                                                                    646 mL
   PO:
   TF:
                                                                    494 mL
                                                                     73 mL
   IVF:
                                                                  1,344 mL
                                                                    392 mL
   Blood products:
                                                                    546 mL
   Total out:
                                                                     70 mL
                                                                    600 mL
   Urine:
   NG:
                                                                     70 mL
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  3,277 mL
                                                                     46 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 376 (376 - 478) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/26/167/18/-1
   Ve: 9.8 L/min
   PaO2 / FiO2: 418
   Physical Examination
   Gen: Eyes open, moving all 4 extremities to command
   HEENT: PERRL
   Lungs: CTA anteriorly
   CV: RR, SEM loudest at LUSB
   Abd: wound vac in place, soft, obese, nontender
   Ext: [**2-3**]+ pitting edema in all extremities
   Labs / Radiology
   301 K/uL
   6.8 g/dL
   101 mg/dL
   3.2 mg/dL
   18 mEq/L
   4.0 mEq/L
   68 mg/dL
   105 mEq/L
   141 mEq/L
   22.5 %
   23.8 K/uL
        [image002.jpg]
   [**4-16**] blood/ dimorphic fungal Cx pending
   4.16-4.17 blood cx NGTD
   4.15 Blood cx with YEAST 1 of 4
   4.12 Blood cx with [**Female First Name (un) **] ALBICANS
   4.17 HD cath tip cx pending
   4.16 PICC  tip cx pending
   4.15 pleural fluid cx pending
   4.17 ascites cx pending
   4.16 c diff negative
   .
[**2168-4-15**] 10:30 am PERITONEAL FLUID      PERITONEAL FLUID.
   GRAM STAIN (Final [**2168-4-15**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
   FLUID CULTURE (Preliminary):    NO GROWTH.
   ANAEROBIC CULTURE (Preliminary):
   FUNGAL CULTURE (Preliminary):
   ACID FAST SMEAR (Final [**2168-4-16**]):
   NO ACID FAST BACILLI SEEN ON DIRECT SMEAR.
   ACID FAST CULTURE (Preliminary):
                             [**2168-4-14**]  12:24 PM
                             [**2168-4-14**]  02:50 PM
                             [**2168-4-15**]  04:24 AM
                             [**2168-4-15**]  04:54 AM
                             [**2168-4-15**]  03:10 PM
                             [**2168-4-16**]  02:46 AM
                             [**2168-4-16**]  03:08 AM
                             [**2168-4-16**]  01:08 PM
                             [**2168-4-16**]  06:16 PM
                             [**2168-4-17**]  03:26 AM
   WBC
   25.1
   26.9
   22.2
   21.9
   23.8
   Hct
   26.7
   24.7
   23.0
   22.8
   22.5
   Plt
   [**Telephone/Fax (3) 11985**]84
   301
   Cr
   2.0
   2.7
   2.8
   3.2
   3.2
   TropT
   0.23
   0.21
   TCO2
   29
   24
   23
   23
   20
   Glucose
   130
   91
   63
   78
   101
   Other labs: PT / PTT / INR:22.9/124.4/2.2, CK / CKMB /
   Troponin-T:34//0.21, ALT / AST:[**10-30**], Alk Phos / T Bili:164/10.1,
   Differential-Neuts:71.0 %, Band:0.0 %, Lymph:13.0 %, Mono:11.0 %,
   Eos:3.0 %, Lactic Acid:1.6 mmol/L, LDH:240 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.0 mg/dL
   CT torso:
   1. No CT evidence of disseminated fungal infection. Large amount of
   ascites
   within the abdomen and pelvis. Diffuse bowel wall thickening which may
   be
   related to third spacing. However, given history of C. difficile
   infection,
   bowel wall thickening of the colon could also represent colitis.
   2. Continued hypoenhancement of the kidneys bilaterally, unchanged from
   [**4-5**], [**2168**], again concerning for cortical necrosis.
   3. Peripheral nonenhancement of the spleen, unchanged, consistent with
   splenic infarction.
   4. Central venous line ends within the upper inferior vena cava,
   unchanged.
   5. Cholelithiasis without evidence of cholecystitis.
   6. Diffuse anasarca, worsening.
   Assessment and Plan :
   48 yo F with ESRD on HD, HBV, recent prolonged hospitalization for PEG
   c/b abdominal abscess requiring debridement along with gram negative
   bacteremia and candidemia returned from her rehab facility with
   lethargy and worsening leukocytosis in setting of recently diagnosed
   C.difficile colitis transferred back to the MICU with altered mental
   status and found to have candidemia.
   .
   # Candidemia / Sepsis
   Likely line related in the setting of TPN. Positive blood cultures ( on
   [**5-15**] and [**4-14**])  correlate with being off micafungin on the floor,
   repeat cultures are negative. Lines re-changed yesterday [**4-16**]. Patient
   had prior C. glabrata line infection treated with fluconazole x23d. If
   seeded bone/heart/venous clots or abscess formation 3 week course would
   have likely been inadequate. Left thigh fluid collection previously
   drained c/w hematoma and all cultures from thigh NGTD.  She had no more
   fevers overnight but  is still very dependent on pressors. WBC still
   elevated at 23 ( has been ranging  22-26) .  So far, ascites drainage
   negative for SBP and no fungus growing to date.  She has clean eye exam
   with ophthalmology yesterday.
   .
   - ID following, appreciate recs
   - Continue micafungin & additional Ambisome
   - daily blood cultures for now
   - holding all TPN for now
   - new A-line and right femoral CVL re-sited [**4-16**] for fresh access / all
   old lines removed
   - [**Last Name (LF) 1163**], [**First Name3 (LF) 116**] be done next week once more stable
   - f/u repeat glucan / galactomannan & dimorphic fungi blood cultures
   -  f/up ID recs, appreciate input
   # Leukocytosis and fever: Most likely disseminated fungal infection,
   though she came with report of C. diff infection at her rehab. Please
   see admit note for detailed ddx discussion. Thoracentesis yesterday
   showed no evidence of empyema.  WBCs still in 22-23 range but fevers
   have tapered. Still septic physiology requiring pressors
   intermittently. HD line has been removed, PICC removed.  - trending
   fevers, WBC slowly coming down
   - ID following, discuss regarding taking off antibacterials
   - Fungemia w/u and treatment as above
   - Continuing on cefepime, amikacin (to cover for resistant pseudomonas)
   but talk to ID regarding whether needs these, IV vanco and PO vanco
   given recent C.diff
   - f/up pending culture data, daily cultures
   - f/up final  CT torso read
   - [**First Name3 (LF) 1163**] to r/o vegetations
   - continue CIS
   .
   #Hypoxia: Intubated mainly for airway protection vs. overt resp
   failure.   Oxygenating better today, but tachypneic on PSV, suspect
   this is fluid related or related to altered mental status.  Mental
   status improved today.
   - Trial SBT again today for 30-60min to see whether can trial
   extubation today
   -favor additional volume removal, may need CVVH. Less likely PE or
   aspiration.
   .
   # Altered mental status
   Still intubated for airway protection. The acute onset of this event
   and rapid improvement is worrisome for a seizure. With her prior CVA
   and meropenem treatment with active infection would be concerned for
   seizure. Would also consider sedating med effect eg: dilaudid, though
   she was reportedly feeling well several hours after receiving a low
   dose of PO dilaudid. No evidence of bleed on head CT. EEG with no
   active seizures.
   - wean sedation as tolerates
   -  treating infections as above
   - Consider neuro c/s
   # Hypotension:  Suspect [**2-2**] sepsis. Less likely cardiogenic. Her
   propofol may be contributory. She appears intravascularly volume
   overloaded. Cortisol level normal. On very low dose Levophed but unable
   to wean off completely
   - Wean pressors as tolerated, on Levophed intermittently
   - Treating infection as above
   .
   # Abdominal wound: Wound vac changed Friday. ABD CT unchanged.
   - plastic surgery following, recs appreciated
   - continue local care, wound vac
   .
   # Portal venous and RIJ clots
   - On heparin gtt
   .
   # HepB, autoimmune cholangiopathy:  S/p recent prednisone taper.
   - no steroids for now given sepsis and candidemia issues
   - Continue entecavir and tenofovir
   - Continue ursodiol
   - Continue to follow synthetic function tests
   - Liver recs appreciated
   .
   # ESRD on HD
   Removed HD line as above, sending for culture. Per renal no urgent need
   for HD today. Given pressor requirement, may need CVVH. Also d/w renal
   new line options/discussion.
   - Renal recs appreciated
   - Follow lytes daily
   .
   # DM:
   - Continue insulin
   - will d/c glargine for now and start on Humalog SSI
   .
   # Anemia
   - Hct stable, continue to follow daily.
   - Maintain active T+S and transfuse for hct>21
   ICU Care
   Nutrition: Tube feeds
   Peptamen 1.5 (Full) - [**2168-4-15**] 11:15 PM 25 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2168-4-16**] 05:45 PM
   Arterial Line - [**2168-4-17**] 12:13 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Patient, Brother [**Name (NI) 5761**] [**Name (NI) 1576**] [**Telephone/Fax (1) 11788**]
   cell phone [**Telephone/Fax (1) 11986**]
   Code status: Full code
   Disposition: ICU

2168-04-17 09:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   New R femoral CVC placed and L IJ CVC removed.  New R radial A-line
   placed and L radial A-line removed.
   Opthomalogy saw patient, no evidence of ocular involvement with fungus.
   Ambisome started per ID recommendations.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Amikacin - [**2168-4-14**] 09:10 PM
   Vancomycin - [**2168-4-16**] 12:00 PM
   Cefipime - [**2168-4-16**] 09:05 PM
   Micafungin - [**2168-4-16**] 10:00 PM
   Metronidazole - [**2168-4-17**] 12:00 AM
   Ambisome - [**2168-4-17**] 02:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Heparin Sodium - 750 units/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2168-4-16**] 11:30 AM
   Pantoprazole (Protonix) - [**2168-4-16**] 09:07 PM
   Other medications:
   ursodiol, pancrease, RISS, peridex, tenofovir, entecavir, po vancomycin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-17**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 65 (61 - 73) bpm
   BP: 137/63(87) {78/39(53) - 177/78(107)} mmHg
   RR: 27 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 16 (14 - 16)mmHg
   Total In:
                                                                  3,247 mL
                                                                    974 mL
   PO:
   TF:
                                                                    494 mL
                                                                    114 mL
   IVF:
                                                                  1,244 mL
                                                                    679 mL
   Blood products:
                                                                    546 mL
   Total out:
                                                                     70 mL
                                                                    600 mL
   Urine:
   NG:
                                                                     70 mL
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  3,177 mL
                                                                    374 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 349 (349 - 478) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/26/167/18/-1
   Ve: 10.3 L/min
   PaO2 / FiO2: 418
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, sclera icterus
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: course ventilated BS
   Abdominal: Soft, Non-tender, Bowel sounds present, Vac dressing in
   place.
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed, Jaundice
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.8 g/dL
   301 K/uL
   101 mg/dL
   3.2 mg/dL
   18 mEq/L
   4.0 mEq/L
   68 mg/dL
   105 mEq/L
   141 mEq/L
   22.5 %
   23.8 K/uL
        [image002.jpg]
                             [**2168-4-14**]  12:24 PM
                             [**2168-4-14**]  02:50 PM
                             [**2168-4-15**]  04:24 AM
                             [**2168-4-15**]  04:54 AM
                             [**2168-4-15**]  03:10 PM
                             [**2168-4-16**]  02:46 AM
                             [**2168-4-16**]  03:08 AM
                             [**2168-4-16**]  01:08 PM
                             [**2168-4-16**]  06:16 PM
                             [**2168-4-17**]  03:26 AM
   WBC
   25.1
   26.9
   22.2
   21.9
   23.8
   Hct
   26.7
   24.7
   23.0
   22.8
   22.5
   Plt
   [**Telephone/Fax (3) 11985**]84
   301
   Cr
   2.0
   2.7
   2.8
   3.2
   3.2
   TropT
   0.23
   0.21
   TCO2
   29
   24
   23
   23
   20
   Glucose
   130
   91
   63
   78
   101
   Other labs: PT / PTT / INR:22.9/124.4/2.2, CK / CKMB /
   Troponin-T:34//0.21, ALT / AST:[**10-30**], Alk Phos / T Bili:164/10.1,
   Differential-Neuts:71.0 %, Band:0.0 %, Lymph:13.0 %, Mono:11.0 %,
   Eos:3.0 %, Lactic Acid:1.6 mmol/L, LDH:240 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.0 mg/dL
   Imaging: CXR: Markedly rotated film, difficult to compare to priors.
   No obvious infiltrate, perhaps some increase in volume but could also
   be rotational artifact.
   Microbiology: Peritoneal fluid:  NGTD
   C diff:  neg
   Pleural fluid cx: pending
   Picc tip: pending
   HD cath tip: pending
   BCX: Yeast on [**5-15**], 415
   BCx: [**4-16**] pending
   Assessment and Plan
   48 yo with ESRD and HBV cirrhosis with prolonged course after recent
   complicated abd wound and polymicrobial bacteremia.  Now with fungemia.
    1.) Sepsis:  Likely source fungemia.  All lines changed again
   yesterday.  Also concern that fungus may be colonizing intravascular
   clots.
   -Now on micafungin and ambisome per ID.  Cx now suggests [**Female First Name (un) 444**]
   albicans.  Fluc sensis will be known tomorrow-->Will tailor regimen as
   able tomorrow.
   -Will discuss with ID re: ?scaling back some of the anti-bacterial
   regimen which is empiric.
   -TEE to be done next week
   -Daily surveillance cultures
   -Appreciate optho input
   -Still requiring a small amount of pressors.  Will continue to wean as
   able.
    2.) Respiratory Failure:  Oxygenating well.  Currently overventilating
   on PSV 12/5.
   -SBT this AM.  If passes would like to extubate today.
    3.) Cdif: cont po vanc and flagyl; will likely require prolonged
   course
    4.) Altered mental status: Cleared quickly here.  Head CT
   unremarkable.  EEG with diffuse slowing.  Likely toxic metabolic.
   Following commands and nodding appropriately today.
   -Avoid offending meds as able.
   -Daily awakening if remains intubated.
    5.)  Renal:  Currently on HD holiday.  No clear indication for RRT
   today although volume will eventually become an issue.
    6.) A/C:
   - Back on heparin gtt for portal vein thrombosis and R IJ thrombosis.
   Holding on coumadin given plans for new HD line in the future.
    7). Autoimmune cholangiopathy: completed  steroid taper
   8.)  FEN:  Off TPN.  Hold TF for possible extubation.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2168-4-15**] 11:15 PM 25 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2168-4-16**] 05:45 PM
   Arterial Line - [**2168-4-17**] 12:13 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2168-04-18 09:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   48 yo F with ESRD on HD, recent prolonged hospital stay with abdominal
   wound infection, returned to [**Hospital1 1**] with CDif and now with candidemia
   24 Hour Events:
   Extubated successfully yesterday and able to come down to 2L NC,
   continues to have mild levophed requirement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2168-4-16**] 09:05 PM
   Ambisome - [**2168-4-17**] 02:00 AM
   Vancomycin - [**2168-4-17**] 06:00 PM
   Micafungin - [**2168-4-17**] 08:00 PM
   Metronidazole - [**2168-4-18**] 12:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-4-17**] 08:00 PM
   Fentanyl - [**2168-4-18**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-18**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.6
C (96
   HR: 66 (62 - 69) bpm
   BP: 109/48(68) {98/44(64) - 151/60(88)} mmHg
   RR: 25 (12 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,376 mL
                                                                    328 mL
   PO:
                                                                     60 mL
                                                                     60 mL
   TF:
                                                                    125 mL
   IVF:
                                                                    921 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    800 mL
   Urine:
   NG:
   Stool:
                                                                    600 mL
                                                                    350 mL
   Drains:
   450 mL
   Balance:
                                                                    776 mL
                                                                   -472 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.42/29/124/18/-3
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: Anxious, facial edema
   Eyes / Conjunctiva: scleral icterus
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: nonspecific, mild ttp
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   6.8 g/dL
   415 K/uL
   116 mg/dL
   3.6 mg/dL
   18 mEq/L
   4.4 mEq/L
   71 mg/dL
   102 mEq/L
   136 mEq/L
   23.0 %
   27.2 K/uL
        [image002.jpg]
                             [**2168-4-15**]  04:54 AM
                             [**2168-4-15**]  03:10 PM
                             [**2168-4-16**]  02:46 AM
                             [**2168-4-16**]  03:08 AM
                             [**2168-4-16**]  01:08 PM
                             [**2168-4-16**]  06:16 PM
                             [**2168-4-17**]  03:26 AM
                             [**2168-4-17**]  10:07 AM
                             [**2168-4-17**]  03:27 PM
                             [**2168-4-18**]  02:29 AM
   WBC
   22.2
   21.9
   23.8
   26.5
   27.2
   Hct
   23.0
   22.8
   22.5
   22.6
   23.0
   Plt
   290
   284
   301
   326
   415
   Cr
   2.8
   3.2
   3.2
   3.4
   3.6
   TCO2
   24
   23
   23
   20
   19
   Glucose
   63
   78
   101
   135
   116
   Other labs: PT / PTT / INR:24.8/59.8/2.4, CK / CKMB /
   Troponin-T:34//0.21, ALT / AST:9/36, Alk Phos / T Bili:189/10.4,
   Differential-Neuts:81.0 %, Band:0.0 %, Lymph:13.0 %, Mono:3.0 %,
   Eos:1.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:254 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   48 yo F with ESRD on HD, recent prolonged hospital stay with abdominal
   wound infection, returned to [**Hospital1 1**] with CDif and now with candidemia
   1. Candidemia:
    - all lines changed
    - cont micafungin, await sensitivies
    - holding off on tpn for now
    - will need optho exam
    - TEE [**4-18**]
   2. Leukocytosis and fevers: wbc trending up in setting of known cdif
   and candidemia, continues to have pressor requirement
    - surveillance cultures
   3. Hypoxemia: initially intubated for airway protection, tolerated
   extubation well, 2L O2 requirement but increased dyspnea with turns
    - will follow after starting CVVH
   4. Altered mental status: continues to be more lethargic than baseline
   but imrpoving, this could be related to uremia and hepatic
   encephalopathy
    - d/c fentanyl for abdominal and leg pain
    - will restart lactulose and rifaxamin
    - HD today
    - if mental status remains altered despite above interventions and
   holding sedating medications, would consider LP although meningitis
   less likely
   5. ESRD: HD line to be placed today, followed by CVVH
   6. ESLD: rifaxamin, lactulose, liver service input much appreciated,
   continuing antivirals
   7. FEN: will place post-pyloric doboff today to initiate tube feeds;
   would consider reglan if no improvement
   8. Abdominal wound: wound vac changed last week, appreciate plastic
   surgery assistance
   9. Portal vein clot: holding heparin while awaiting HD line, cont a/c
   once line has been placed
   10. Pain: diffuse and nonspecific, would start with tylenol standing,
   would restart neurontin if mental status clears
   ICU Care
   Nutrition:
   Comments: will place post-pyloric feeding tube today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2168-4-16**] 05:45 PM
   Arterial Line - [**2168-4-17**] 12:13 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   sw assistance with establishing this
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   Addendum: Pt became bradycardic, hypotensive, and unresponsive at
   around 2:15PM.  Pt also noted to be apneic.  Code Blue called.  1 round
   of epi and atropine given with rapid improvement in HR and BP.  CPR
   never needed during event.  Reintubated by anesthesia.  Will proceed
   with CT of head and torso.  Suspect however that she had another
   aspiration event but difficult to confirm.  MICU Fellow contact[**Name (NI) **] pt
   HCP to inform her of events.
   Pt is critically ill.  Time spent 40 minutes.

2168-04-19 09:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Reintubated for unresponse, bradycardiac, and HoTN episode
   - CVVHD initiated
   - Hct drop 24 -> 19, 2 units PRBC, 4 FFP
   - CT scan with dense ascites
   - Diagnostic para with straw colored fluid
   - Off pressors this am
   - Neurology consult for possible seizure event causing unresponsiveness
   - Hypothermic 95-96 F
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2168-4-16**] 09:05 PM
   Ambisome - [**2168-4-17**] 02:00 AM
   Micafungin - [**2168-4-18**] 08:00 PM
   Vancomycin - [**2168-4-19**] 06:00 AM
   Metronidazole - [**2168-4-19**] 08:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 2 grams/hour
   Propofol - 20 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-4-18**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-19**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 35.3
C (95.6
   Tcurrent: 35.3
C (95.6
   HR: 60 (48 - 91) bpm
   BP: 99/53(69) {69/39(49) - 182/76(106)} mmHg
   RR: 23 (0 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
           Total In:
                                                                  1,843 mL
                                                                  3,153 mL
   PO:
                                                                    110 mL
           TF:
   IVF:
                                                                  1,125 mL
                                                                  1,113 mL
   Blood products:
                                                                    608 mL
                                                                  1,890 mL
   Total out:
                                                                  1,532 mL
                                                                  2,464 mL
   Urine:
   NG:
   Stool:
                                                                    350 mL
   Drains:
                                                                    450 mL
   Balance:
                                                                    311 mL
                                                                    689 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 20s
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 320
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/30/170/19/1
   Ve: 13.9 L/min
   PaO2 / FiO2: 425
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   Bradycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anterior)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, wound-vac
   in place
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, anasarca
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.0 g/dL
   327 K/uL
   103 mg/dL
   3.1 mg/dL
   19 mEq/L
   4.1 mEq/L
   59 mg/dL
   99 mEq/L
   139 mEq/L
   20.9 %
   21.6 K/uL
        [image002.jpg]
                             [**2168-4-17**]  10:07 AM
                             [**2168-4-17**]  03:27 PM
                             [**2168-4-18**]  02:29 AM
                             [**2168-4-18**]  02:18 PM
                             [**2168-4-18**]  02:33 PM
                             [**2168-4-18**]  05:00 PM
                             [**2168-4-18**]  11:50 PM
                             [**2168-4-18**]  11:56 PM
                             [**2168-4-19**]  05:00 AM
                             [**2168-4-19**]  05:14 AM
   WBC
   26.5
   27.2
   33.7
   25.5
   21.6
   Hct
   22.6
   23.0
   24.4
   20
   19.6
   20.9
   Plt
   326
   415
   507
   422
   327
   Cr
   3.4
   3.6
   3.3
   3.2
   3.1
   TropT
   0.24
   TCO2
   19
   15
   19
   22
   23
   Glucose
   135
   116
   158
   96
   103
   Other labs: PT / PTT / INR:19.8/43.9/1.8, CK / CKMB /
   Troponin-T:33//0.24, ALT / AST:12/39, Alk Phos / T Bili:201/11.2,
   Differential-Neuts:85.0 %, Band:0.0 %, Lymph:13.0 %, Mono:2.0 %,
   Eos:0.0 %, Fibrinogen:522 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.1
   g/dL, LDH:244 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:5.3 mg/dL
   Fluid analysis / Other labs: Peritoneal fluid: 165 WBC, 43% pmn, 64%
   RBC
   Imaging: CXR - bilateral effusions, otherwise lung fields clear
   Microbiology: [**2073-4-10**]: Blood positive C. albicans, rest negative to
   date
   [**4-18**]: Para fluid without organisms on smear, culture pending
   Assessment and Plan
   48 yo F with ESRD on HD, recent prolonged hospital stay with abdominal
   wound infection, returned to [**Hospital1 1**] with CDif and now with candidemia
   #. Unresponsiveness: Prompted reintubation. 3^rd episode this
   hospitalization. DDx includes seizure, acidosis, infection, or cardiac
   event given bradycardia causing cerebral hypoperfusion.
   - Neuro consult
   - 24 hour EEG and MRI/MRA
   - Treat any underlying medical conditions that may lower seizure
   threshold and avoid medications that will do this
   - Defer LP given coaguloapathy
   #. Hct drop: Occurred in setting of supratherapeutic PTT and
   coagulopathy. Not bumping appropriately with PRBC. No overt bleeding
   seen, but possible sources include hemothorax, abdominal bleeding (para
   and abd CT unremarkable), L thigh hematoma, or GI bleed.
   - US guided [**Female First Name (un) 231**]
   - Guiac stools, PPI
   - Hold heparin
   - Correct coagulopathy
   - F/U final read on CT scan
   - L thigh hematoma U/S
   #. Candidemia:
    - all lines changed last week
    - cont micafungin, await sensitivies for possible switch to
   fluconazole
   - holding off on tpn for now
   - will need optho exam
   - TEE requested
   - US guided drainage of L thigh hematoma to ensure not seeded
   #. Hypotension: Off pressors. Likely [**2-2**] event yesterday with some
   volume overload as improved with CVVHD.
   - Run TBB negative.
   #. C. diff:
   - PO vanc and IV flagyl, continue for 14 days after antibiotics
   - Leukocytosis improving.
   #. Respiratory failure: Reintubated for unresponsive episode.
   - Will follow after starting CVVH
   - Wean PS as tolerated
   #. ESRD: On CVVH
   #. ESLD: rifaxamin, lactulose, liver service input much appreciated,
   continuing antivirals
   #. FEN: NPO for TEE
   #. Abdominal wound: wound vac changed last week, appreciate plastic
   surgery assistance
   #. Clotting: holding heparin for bleeding. Will reultrasound UE for
   possible PICC line placement.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2168-4-16**] 05:45 PM
   Arterial Line - [**2168-4-17**] 12:13 AM
   Dialysis Catheter - [**2168-4-18**] 08:50 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: None, Hct drop)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2168-04-21 09:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - TEE without evidence of endocarditis
   - Thigh hematoma with few polys, but no organisms
   - PICC team concerned about trying to place
   - Dobhoff fell out
   - NIF -15, but poor quality per RT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2168-4-19**] 08:00 PM
   Vancomycin - [**2168-4-20**] 12:00 AM
   Fluconazole - [**2168-4-20**] 10:10 AM
   Metronidazole - [**2168-4-21**] 08:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Heparin Sodium - 350 units/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Midazolam (Versed) - [**2168-4-20**] 04:00 PM
   Fentanyl - [**2168-4-20**] 04:00 PM
   Pantoprazole (Protonix) - [**2168-4-20**] 09:08 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-21**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 70 (54 - 70) bpm
   BP: 120/46(71) {89/40(57) - 126/54(77)} mmHg
   RR: 28 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 72.3 kg
   Height: 64 Inch
             Total In:
                                                                  3,208 mL
                                                                  1,472 mL
   PO:
             TF:
   IVF:
                                                                  3,008 mL
                                                                  1,392 mL
   Blood products:
   Total out:
                                                                  5,524 mL
                                                                  2,551 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,316 mL
                                                                 -1,079 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 361 (361 - 454) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 31
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 87
   PIP: 6 cmH2O
   Plateau: 20 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/29/148/17/-3
   NIF: -15 cmH2O
   Ve: 12.3 L/min
   PaO2 / FiO2: 370
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   342 K/uL
   121 mg/dL
   1.3 mg/dL
   17 mEq/L
   3.8 mEq/L
   17 mg/dL
   106 mEq/L
   137 mEq/L
   26.5 %
   25.0 K/uL
        [image002.jpg]
                             [**2168-4-19**]  10:44 PM
                             [**2168-4-19**]  11:12 PM
                             [**2168-4-20**]  04:32 AM
                             [**2168-4-20**]  02:49 PM
                             [**2168-4-20**]  03:08 PM
                             [**2168-4-20**]  10:05 PM
                             [**2168-4-20**]  10:15 PM
                             [**2168-4-21**]  04:00 AM
                             [**2168-4-21**]  04:10 AM
                             [**2168-4-21**]  05:51 AM
   WBC
   23.8
   25.7
   25.4
   25.0
   Hct
   26.2
   27.0
   25.4
   25.6
   26.5
   Plt
   329
   382
   409
   342
   Cr
   1.5
   1.6
   1.7
   1.3
   TCO2
   19
   18
   21
   20
   19
   Glucose
   129
   108
   110
   116
   121
   Other labs: PT / PTT / INR:19.0/104.8/1.7, CK / CKMB /
   Troponin-T:33//0.24, ALT / AST:10/36, Alk Phos / T Bili:278/12.4,
   Differential-Neuts:85.0 %, Band:0.0 %, Lymph:13.0 %, Mono:2.0 %,
   Eos:0.0 %, Fibrinogen:522 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.6
   g/dL, LDH:218 IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.0 mg/dL
   Imaging: CXR - Clear. Tubes/lines in good position.
   Microbiology: No new data.
   Assessment and Plan
   48 yo F with ESRD on HD, recent prolonged hospital stay with abdominal
   wound infection, returned to [**Hospital1 1**] with CDif and now with candidemia
    #. Respiratory failure: Reintubated for unresponsive episode. RSBI 800
   this am due to RR 50-60s. Contributing factors include abdominal
   compression, pulmonary edema/effusions, and mental status/anxiety.
   - Will follow
   - PS as tolerated
   - Check NIF to assess for muscle weakness
   #. Hypotension: On low dose pressors. Likely [**2-2**] autonomic instability
   vs resolving sepsis.
   - Run TBB negative.
   - On low dose prednisone.
   #. Neuro/unresponsiveness: Prompted reintubation. 3rd episode this
   hospitalization. DDx includes seizure, acidosis, infection, or cardiac
   event given bradycardia causing cerebral hypoperfusion. Unclear
   etiology, but no further episodes.
   - Appreciate neuro consult
   - Defer MRI/MRA per neuro; defer LP given coaguloapathy
   #. Hct drop: Occurred in setting of supratherapeutic PTT and
   coagulopathy. Now bumped appropriately with Hct stable.
   - Correct coagulopathy
   - Continue PPI
   - Restart heparin gtt without bolus given clotting.
   #. Candidemia:
   - All lines changed last week
   - Changed to fluconazole based on sensitivities
   - Will need optho exam
   - TEE today
   - US guided drainage of L thigh hematoma to ensure not seeded
   #. Diarrhea: Likely [**2-2**] C. diff, although not improving in setting of
   treatment.
   - PO vanc and IV flagyl, continue for 14 days after antibiotics
   - Consider more extensive work-up for diarrhea
   #. Persistent leukocytosis: Likely [**2-2**] resolving fungal infection and
   c. diff. Awaiting TEE and hematoma tap. F/u cultures.
   #. ESRD: On CVVH.
   #. ESLD:
   - On rifaxamin, lactulose (held given diarrhea)
   - Continuing antivirals; restarted prednisone.
   - Appreciate liver service input.
   #. Abdominal wound: wound vac changed last week, appreciate plastic
   surgery assistance
   #. Access: Plan for RUE PICC line placement given resolution of clot on
   most recent U/S.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2168-4-16**] 05:45 PM
   Arterial Line - [**2168-4-17**] 12:13 AM
   Dialysis Catheter - [**2168-4-18**] 08:50 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill